US05723497
A 200-ml flask equipped with a stirrer was charged with 16.6 g (158 mmol) of diethanolamine and 20.1 g (79 mmol) of cyclohexadecanolide, to which 0.21 g (3.9 mmol) of sodium methoxide was added. The contents were stirred at 80° C. for 18 hours. After completion of the reaction, water was added, and solids deposited were collected by filtration and recrystallized from methanol, thereby obtaining 23.3 g (yield: 82%) of N,N-bis(2-hydroxyethyl)-16-hydroxyhexadecanamide.

reactant | diethanolamine | 158 mmol, 16.6 g | N(CCO)CCO | C4H11NO2
reactant | cyclohexadecanolide | 79 mmol, 20.1 g | C1CCCCCCCC(=O)OCCCCCCC1 | C16H30O2
catalyst | sodium methoxide | 3.9 mmol, 0.21 g | C[O-].[Na+]
solvent | water | O | H2O
product | N,N-bis(2-hydroxyethyl)-16-hydroxyhexadecanamide | 23.3 g, yield: 82% | OCCN(C(CCCCCCCCCCCCCCCO)=O)CCO | C20H41NO4
